US05399613
To 10 liters of acetone were added 50 g of 2,7-dihydorxynaphthalene, 50 g of p-aminophenol and 10 g of periodic acid. The mixture obtained was reacted at 80° C. for 5 hours, and thereafter was cooled to give a solution of 2,7-dihydroxynaphthalene-p-aminophenol in acetone.

reactant | 2,7-dihydorxynaphthalene | 50 g | OC1=CC2=CC(=CC=C2C=C1)O | C10H8O2
reactant | p-aminophenol | 50 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | periodic acid | 10 g | I(=O)(=O)(=O)O | HIO4
solvent | acetone | CC(=O)C | C3H6O
solvent | acetone | 10 liters | CC(=O)C | C3H6O
product | 2,7-dihydroxynaphthalene p-aminophenol | OC1=CC2=CC(=CC=C2C=C1)O.C1=CC(=CC=C1N)O | InChI=1S/C10H8O2.C6H7NO/c11-9-3-1-7-2-4-10(12)6-8(7)5-9;7-5-1-3-6(8)4-2-5/h1-6,11-12H;1-4,8H,7H2
